US08283354B2
To a mixture of 2-(4-chloro-6-fluoroquinazolin-2-yl)phenol (200 mg, 0.72 mmol) and CH2Cl2 (7 mL) was added (R)-2-hydroxy-4-methyl-1-(piperazin-1-yl)pentan-1-one oxalate (275 mg, 0.95 mmol). The reaction was complete after two hours. Purification via silica gel chromatography using 0-10% EtOAc in 50:50 mixture of CH2Cl2:hexanes gave (R)-1-(4-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4-methylpentan-1-one (289 mg, 91%). LC/MS: m/z 439.30 (M+H)+ at 3.00 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.46 (m, 1H), 8.02 (m, 1H), 7.84 (m, 2H), 7.40 (m, 1H), 6.97 (m, 2H), 4.92 (d, J=7.2 Hz, 1H), 4.38 (m, 1H), 3.98 (m, 4H), 3.76 (m, 4H), 1.80 (m, 1H), 1.42 (m, 2H), 0.92 (q, J=3.8 Hz, 6H).

reactant | 2-(4-chloro-6-fluoroquinazolin-2-yl)phenol | 0.72 mmol, 200 mg | ClC1=NC(=NC2=CC=C(C=C12)F)C1=C(C=CC=C1)O | C14H8ClFN2O
reactant | (R)-2-hydroxy-4-methyl-1-(piperazin-1-yl)pentan-1-one oxalate | 0.95 mmol, 275 mg | C(C(=O)O)(=O)O.O[C@@H](C(=O)N1CCNCC1)CC(C)C
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(4-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4-methylpentan-1-one | 289 mg, 91% | FC=1C=C2C(=NC(=NC2=CC1)C1=C(C=CC=C1)O)N1CCN(CC1)C([C@@H](CC(C)C)O)=O | C24H27FN4O3
